US07115611B2
In analogy to the procedure described in example 20A], (4-hydroxy-2-methyl-phenylsulfanyl)-acetic acid tert-butyl ester (example 20C]), was reacted with 3-chloromethyl-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine (example 1N]) to give {2-methyl-4-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-phenylsulfanyl}-acetic acid tert-butyl ester, which was subsequently saponified in analogy to the procedure described in example 20B] to yield the title compound as white solid of mp. 168–169° C.

reactant | (4-hydroxy-2-methyl-phenylsulfanyl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CSC1=C(C=C(C=C1)O)C)=O | C13H18O3S
reactant | 3-chloromethyl-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine | ClCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C14H11ClF3N
product | {2-methyl-4-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-phenylsulfanyl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CSC1=C(C=C(C=C1)OCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C27H28F3NO3S
